US07544672B2
5-(5-Amino-pent-1-ynyl)-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
A solution of {5-[2-amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-pent-4-ynyl}-carbamic acid tert-butyl ester (see previous example, 33 mg) in DCM (1.0 mL) was treated with TFA (0.2 mL) at rt for 10 min. The reaction mixture was concentrated, taken in water (1.5 mL), washed with EtOAc (1.5 mL), made alkaline with sat. aq. NH4OH (0.5 mL), and back-extracted into EtOAc (25 mL). Washing (NH4OH 1M), drying (Na2SO4) and concetration affroded the title compound. tR=4.37 min. 1H NMR (CDCl3) δ 8.15 (s, 1H), 6.97 (s, 1H), 5.25 (s, 2H), 3.72 (s, 3H), 2.94 (m, 2H), 2.48 (t, 2H), 2.23 (s, 3H), 2.16 (s, 3H), 1.80 (quint., 2H).

reactant | {5-[2-amino-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-pent-4-ynyl}-carbamic acid tert-butyl ester | 33 mg | C(C)(C)(C)OC(NCCCC#CC1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C)=O | C25H31ClN6O3
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 5-(5-Amino-pent-1-ynyl)-4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | NCCCC#CC1=CN(C=2N=C(N=C(C21)Cl)N)CC2=NC=C(C(=C2C)OC)C | C20H23ClN6O
